US08791146B2
4-{[(4R)-2,2-Dimethyl-1,3-dioxolan-4-yl]methoxy}benzenecarbaldehyde
2 g (16.38 mmol) of p-methoxybenzaldehyde together with 3.7 g (24.57 mmol) of (4S)-4-(chloromethyl)-2,2-dimethyl-1,3-dioxolane and 15.8 g (114.64 mmol) of potassium carbonate are stirred in 10 ml of DMF at 130° C. overnight. The mixture is then added to water and extracted with methylene chloride. The organic phase is washed with saturated aqueous sodium chloride solution, dried over sodium sulphate and concentrated. The residue is purified on a silica gel column (mobile phase: cyclohexane/ethyl acetate 5:1). This gives 2.42 g (61% of theory) of the target compound.

reactant | p-methoxybenzaldehyde | 16.38 mmol, 2 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | (4S)-4-(chloromethyl)-2,2-dimethyl-1,3-dioxolane | 24.57 mmol, 3.7 g | ClC[C@H]1OC(OC1)(C)C | C6H11ClO2
reactant | potassium carbonate | 114.64 mmol, 15.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-{[(4R)-2,2-Dimethyl-1,3-dioxolan-4-yl]methoxy}benzenecarbaldehyde | CC1(OC[C@H](O1)COC1=CC=C(C=C1)C=O)C | C13H16O4
